US04785017
A mixture of 1.2 g (3.23 mmoles) of racemic-7-[(5-bromopentyl)oxy]-3,4-dihydro-2H-1-benzopyran-2-carboxylic acid ethyl ester, 1.0 g (5.15 mmoles) of 2',4'-dihydroxy-3'-propylacetophenone, 1.8 g (13.0 mmoles) of anhydrous potassium carbonate, 30 ml of acetone, and 15 ml of N,N-dimethylformamide was stirred and refluxed for 6 hr. After being cooled, the mixture was diluted with ether. The ether phase was washed with water and brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue (2.1 g) was chromatographed on 50 g of silica gel. Elution with 19:1 toluene-ethyl acetate afforded 1.3 g (83%) of racemic-7-[5-(4-acetyl-3-hydroxy-2-propylphenoxy)pentyloxy]-3,4-dihydro-2H-1-benzopyran-2-carboxylic acid ethyl ester as a yellow oil.

reactant | racemic-7-[(5-bromopentyl)oxy]-3,4-dihydro-2H-1-benzopyran-2-carboxylic acid ethyl ester | 3.23 mmoles, 1.2 g | C(C)OC(=O)C1OC2=C(CC1)C=CC(=C2)OCCCCCBr | C17H23BrO4
reactant | 2',4'-dihydroxy-3'-propylacetophenone | 5.15 mmoles, 1.0 g | OC1=C(C=CC(=C1CCC)O)C(C)=O | C11H14O3
reactant | potassium carbonate | 13.0 mmoles, 1.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 30 ml | CC(=O)C | C3H6O
solvent | ether | CCOCC | C4H10O
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | racemic-7-[5-(4-acetyl-3-hydroxy-2-propylphenoxy)pentyloxy]-3,4-dihydro-2H-1-benzopyran-2-carboxylic acid ethyl ester | 1.3 g, 83% | C(C)OC(=O)C1OC2=C(CC1)C=CC(=C2)OCCCCCOC2=C(C(=C(C=C2)C(C)=O)O)CCC | C28H36O7
